US04001268
To a solution containing 10 g (45.8 mmole) of p-chlorocarbonylmethylbenzoate dissolved in 100 ml of dichlorobenzene was added 3.0 g (15.3 mmole) of 1,2-diamino-4,5-dinitrobenzene. After heating the resulting mixture to reflux under nitrogen (frothing), it was maintained at that temperature for 2 hours. The solution was then allowed to cool in ice for one hour, and the precipitate that formed was filtered by suction, washed with benzene and air-dried. Recrystallization from tetrahydrofuran (THF)-n-propanol by distillation to a small volume in vacuo yielded 3.2 g (62%) of 2-[p-carbomethoxyphenyl]-5,6-dinitrobenzimidazole as light yellow needles, m.p. 239°-240°.

reactant | p-chlorocarbonylmethylbenzoate | 45.8 mmole, 10 g | ClC(=O)CC1=CC=C(C(=O)[O-])C=C1
reactant | 1,2-diamino-4,5-dinitrobenzene | 15.3 mmole, 3.0 g | NC1=C(C=C(C(=C1)[N+](=O)[O-])[N+](=O)[O-])N | C6H6N4O4
reactant | dichlorobenzene | 100 ml | C1=CC(=CC=C1Cl)Cl | C6H4Cl2
product | 2-[p-carbomethoxyphenyl]-5,6-dinitrobenzimidazole | 3.2 g, 62% | C(=O)(OC)C1=CC=C(C=C1)C=1NC2=C(N1)C=C(C(=C2)[N+](=O)[O-])[N+](=O)[O-] | C15H10N4O6
